US07169554B2
2,6-Dibromo-4-(2-succinimidyloxycarbonylethyl)phenyl acridine-9-carboxylate
N-Hydroxysuccinimide (12 mg, 0.10 mmol) and 2,6-dibromo-4-(2-carboxyethyl)phenyl acridine-9-carboxylate (50 mg, 0.090 mmol) were dissolved in anhydrous DMF (3 ml) and cooled to −20° C. Dicyclohexylcarbodiimide (DCC, 22 mg, 0.11 mmol) was added and the mixture was stirred at −20° C. for 2 h. The solution was stirred overnight at room temperature, and then evaporated to dryness. The residue was extracted with dichloromethane (50 ml) and the filtrate was evaporated to obtain the crude product (100 mg). Further purification was carried out by chromatotron, eluted with chloroform. The solvent was evaporated from the appropriate combined fractions to give the desired product as a light-brown solid (40 mg, 64%), mp 175–6° C. FAB-MS m/z 627 [(M+1)+, 20%], 225 [100], 206 [18], 179 [10], 143 [8].

reactant | N-Hydroxysuccinimide | 0.10 mmol, 12 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | 2,6-dibromo-4-(2-carboxyethyl)phenyl acridine-9-carboxylate | 0.090 mmol, 50 mg | C1=CC=CC2=NC3=CC=CC=C3C(=C12)C(=O)OC1=C(C=C(C=C1Br)CCC(=O)O)Br | C23H15Br2NO4
reactant | Dicyclohexylcarbodiimide | 0.11 mmol, 22 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2,6-Dibromo-4-(2-succinimidyloxycarbonylethyl)phenyl acridine-9-carboxylate | 40 mg, 64% | C1=CC=CC2=NC3=CC=CC=C3C(=C12)C(=O)OC1=C(C=C(C=C1Br)CCC(=O)ON1C(CCC1=O)=O)Br | C27H18Br2N2O6
